US09145435B2
[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indolin-1-yl]tetrahydropyran-2-yl]methyl acetate.
Add [(2R,4S,5R,6S)-3,4,5,6-tetraacetoxytetrahydropyran-2-yl]methyl acetate (10.6 mmol) and 3-[(4-bromophenyl)methyl]-4-methyl-indoline (10.6 mmol) to a solution of acetic acid (69.8 mmol) in methanol (80 mL). Stir at room temperature overnight. Filter the reaction mixture through a glass frit and wash the filter cake with methanol (2×10 mL). Dry the filter cake under vacuum to yield the title compound (2.3g, 3.6 mmol): MS (m/z): 632 (M+H).

reactant | [(2R,4S,5R,6S)-3,4,5,6-tetraacetoxytetrahydropyran-2-yl]methyl acetate | 10.6 mmol | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H](C1OC(C)=O)OC(C)=O)OC(C)=O)OC(C)=O | C16H22O11
reactant | 3-[(4-bromophenyl)methyl]-4-methyl-indoline | 10.6 mmol | BrC1=CC=C(C=C1)CC1CNC2=CC=CC(=C12)C | C16H16BrN
reactant | acetic acid | 69.8 mmol | C(C)(=O)O | C2H4O2
solvent | methanol | 80 mL | CO | CH4O
product | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indolin-1-yl]tetrahydropyran-2-yl]methyl acetate | 3.6 mmol, 2.3g | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1CC(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)Br | C30H34BrNO9
